US06248772B1
The reaction was carried out in a manner similar to Reference Example 5 (25) except for using 2.60 g (10.11 mmol) of ethyl 4-trifluoromethyl-2-indolecarboxylate, 0.445 g (11.12 mmol) of 60% sodium hydride, 4.32 g (15.17 mmol) of tert-butyl N-(3-iodopropyl)-carbamate and 100 ml of dimethylformamide. Ethyl 1-(3-tert-butoxycarbonyl-aminopropyl)-4-trifluoromethyl-2-indolecarboxylate was thus obtained in an amount of 2.81 g (67.1%).

reactant | ethyl 4-trifluoromethyl-2-indolecarboxylate | 10.11 mmol, 2.60 g | FC(C1=C2C=C(NC2=CC=C1)C(=O)OCC)(F)F | C12H10F3NO2
reactant | sodium hydride | 11.12 mmol, 0.445 g | [H-].[Na+]
reactant | tert-butyl N-(3-iodopropyl)-carbamate | 15.17 mmol, 4.32 g | ICCCNC(OC(C)(C)C)=O | C8H16INO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-(3-tert-butoxycarbonyl-aminopropyl)-4-trifluoromethyl-2-indolecarboxylate | C(C)(C)(C)OC(=O)C(CCN1C(=CC2=C(C=CC=C12)C(F)(F)F)C(=O)OCC)N | C20H25F3N2O4
